US07230105B2
4-(3,5-dimethylphenyl)piperazine-1-carboxylic acid (5-{1-[3-(acridine-9-yl-amino)-5-hydroxymethylphenylcarbamoyl]-ethylcarbamoyl}-2-methoxy-6-propylpyridine-3-yl)-amide
The same reaction procedure to the example 1 were carried out using 2-propyl-5-{[4-(3,5-dimethylphenyl)-piperazine-1-carbonyl]-amino}-6-methoxy-nicotinic acid and N-[3-(acridine-9-yl-amino)-5-hydroxymethyl-phenyl]-2-aminopropaneamide to give the titled compound.

reactant | 2-propyl-5-{[4-(3,5-dimethylphenyl)-piperazine-1-carbonyl]-amino}-6-methoxy-nicotinic acid | C(CC)C1=C(C(=O)O)C=C(C(=N1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C23H30N4O4
reactant | N-[3-(acridine-9-yl-amino)-5-hydroxymethyl-phenyl]-2-aminopropaneamide | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)CO)NC(C(C)N)=O | C23H22N4O2
product | 4-(3,5-dimethylphenyl)piperazine-1-carboxylic acid (5-{1-[3-(acridine-9-yl-amino)-5-hydroxymethylphenylcarbamoyl]-ethylcarbamoyl}-2-methoxy-6-propylpyridine-3-yl)-amide | yield: 42.3% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)CO)NC(=O)C(C)NC(=O)C=1C=C(C(=NC1CCC)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C46H50N8O5
